.subckt DLYRAMP_CW_1U RST RAMP VDD GND
* Wide-swing cascode mirror -> RAMP.  Vbcw: ideal Vdd-referenced bias (instrument).
Iref ng GND 1u
Vbcw VDD ncw 1.7
Xin    nA ng  VDD VDD PMOS50 W=8.292503u L=2u M=1
Xincw  ng ncw nA  VDD PMOS50 W=8.292503u L=2u M=1
Xout   nB ng  VDD VDD PMOS50 W=8.292503u L=2u M=1
Xoutcw RAMP ncw nB VDD PMOS50 W=8.292503u L=2u M=1
* --- ramp capacitor: PDK MIM, ~1 pF ---
Xcap RAMP GND CMIM_STD L=31.623u W=31.623u
* --- reset switch across the cap; gate = buffered RST (active-high) ---
Xrst RAMP nrstb GND GND NMOS50 W=100u L=0.5u M=1
Xbuf RST nrstb VDD GND BUF_5V0
.ends DLYRAMP_CW_1U
